US04600709
In a manner analogous to that described in Example 15, 60.0 g of 4-(4-bromophenylsulphonyl)-5-methyl-1,2-benzenediol are reacted in the presence of 120 g of potassium carbonate in 300 ml of dimethylformamide with a solution of 76.2 g of dibromoacetic acid in 100 ml of dimethylformamide. After working up and chromatographic purification in a manner analogous to that described in Example 15 and crystallisation from 1,2-dichloroethane, 5-(4-bromophenylsulphonyl)-6-methyl-1,3-benzodioxole-2-carboxylic acid is obtained in the form of sand-coloured crystals having a melting point of 170°-172.5°.

reactant | 4-(4-bromophenylsulphonyl)-5-methyl-1,2-benzenediol | 60.0 g | BrC1=CC=C(C=C1)S(=O)(=O)C=1C=C(C(=CC1C)O)O | C13H11BrO4S
reactant | potassium carbonate | 120 g | C([O-])([O-])=O.[K+].[K+]
reactant | dibromoacetic acid | 76.2 g | BrC(C(=O)O)Br | C2H2Br2O2
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-(4-bromophenylsulphonyl)-6-methyl-1,3-benzodioxole-2-carboxylic acid | BrC1=CC=C(C=C1)S(=O)(=O)C1=CC2=C(OC(O2)C(=O)O)C=C1C | C15H11BrO6S
